US05276025
Step D: Preparation of 5-chloro-4-carboethoxythiophene-2-sulfonamide
To a round bottom flask were added 5-chloro-4-carboxythiophene-2-sulfonamide (5.0 g, 20.7 mmole) along with toluene (25 mL), ethanol (20 ml), and conc. H2SO4 (25 drops). The reaction mixture was refluxed for 96 hours. The reaction mixture was cooled and the solvent was removed under vacuum. The residue was then poured onto ice and the pH adjusted to ~8.0 using 10% sodium carbonate. The basic aqueous layer was extracted with ethyl acetate and the organic layer was washed with water, brine, and dried (MgSO4). Solvent removal yielded 3.92 g (70%) of an off white solid which was used as is: mp =98°-99° C.

reactant | 5-chloro-4-carboxythiophene-2-sulfonamide | 20.7 mmole, 5.0 g | ClC1=C(C=C(S1)S(=O)(=O)N)C(=O)O | C5H4ClNO4S2
reactant | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
catalyst | H2SO4 | 25 drops | OS(=O)(=O)O | H2O4S
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-chloro-4-carboethoxythiophene-2-sulfonamide | ClC1=C(C=C(S1)S(=O)(=O)N)C(=O)OCC | C7H8ClNO4S2
